US04214890
By using the procedure of Equation 2 with an equivalent amount of appropriate 2-methylaminopyrimidines or 2-methylamino-1,3,5-triazines and appropriately substituted benzenesulfonylisocyanates or isothiocyanates, the compounds of Table 3 can be prepared. For example, to a dry stirred solution of 19.7 parts of 2-methylamino-4-(2-methoxyethylthio)-6-methylpyrimidine in 300 parts of methylene chloride at ambient temperature is added 22.8 parts of 2-nitrobenzenesulfonylisocyanate. That mixture is stirred and refluxed for 4 hours, and then the methylene chloride is removed under reduced pressure. The resulting solid is triturated with 1-chlorobutane to yield N-[N-[4-(2-methoxyethylthio)-6-methylpyrimidin-2-yl]-N-methylaminocarbonyl]-2-nitrobenzenesulfonamide.

reactant | 2-methylamino-4-(2-methoxyethylthio)-6-methylpyrimidine | CNC1=NC(=CC(=N1)SCCOC)C | C9H15N3OS
reactant | 2-nitrobenzenesulfonylisocyanate | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4N2O5S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[N-[4-(2-methoxyethylthio)-6-methylpyrimidin-2-yl]-N-methylaminocarbonyl]-2-nitrobenzenesulfonamide | COCCSC1=NC(=NC(=C1)C)N(C(=O)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C16H19N5O6S2
